US09337430B2
5-[3-(4,6-Diphenyl-1,3,5-triazin-2-yl)phenyl]-5H-phenanthridin-6-one
20 g (102 4 mmol) of 5H-phenanthridin-6-one, 43 g (112 mmol) of 2-(3-bromophenyl)-4,6-diphenyl-1,3,5-triazine, 2.3 g (10 2 mmol) of 1,3-bis[2-pyridyl]-1,3-propanedione, 28.3 g (204 mmol) of potassium carbonate and 1.9 g (10.2) of copper iodide are stirred under reflux in 1000 ml of DMF for 90 h. The solution is diluted with water and extracted twice with ethyl acetate, the combined organic phases are dried over Na2SO4, evaporated in a rotary evaporator and purified by chromatography (EtOAc/hexane: 2/3). The residue is recrystallised from toluene and from dichloromethane and finally sublimed in a high vacuum, purity is 99.9%. The yield is 31 g (62 mmol), corresponding to 61% of theory.

reactant | 5H-phenanthridin-6-one | 4 mmol, 20 g | C1=CC=CC=2NC(C3=CC=CC=C3C12)=O | C13H9NO
reactant | 2-(3-bromophenyl)-4,6-diphenyl-1,3,5-triazine | 112 mmol, 43 g | BrC=1C=C(C=CC1)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H14BrN3
reactant | 1,3-bis[2-pyridyl]-1,3-propanedione | 2 mmol, 2.3 g | N1=C(C=CC=C1)C(CC(=O)C1=NC=CC=C1)=O | C13H10N2O2
reactant | potassium carbonate | 204 mmol, 28.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1000 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | copper iodide | 1.9 g | [Cu](I)I
product | 5-[3-(4,6-Diphenyl-1,3,5-triazin-2-yl)phenyl]-5H-phenanthridin-6-one | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=CC=CC=C1)C=1C=C(C=CC1)N1C=2C=CC=CC2C2=CC=CC=C2C1=O | C34H22N4O
